US07534797B2
7-(8-Chloro-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-quinoline
A mixture of POCl3 (8 mL, 13 g, 87 mmol) and cyclobutanecarboxylic acid [(3-chloropyrazin-2-yl)-quinolin-7-ylmethyl]-amide (566 mg, 1.60 mmol) was heated to 55° C. for 21.5 h and to 70° C. for 6 h. POCl3 was evaporated, a cold solution of NH3 in iPrOH (2 M, 10 mL) was added, the suspension was filtered, and the solid was washed with iPrOH. The crude material contained in the combined filtrate and washings was adsorbed onto Hydromatrix and chromatographed on silica gel [Jones Flashmaster, 20 g/70 mL cartridge, eluting with hexanes: EtOAc 1:1 (1-13)→1:3 (14-38)], yielding the title compound as a yellow foam; 1H NMR (CDCl3, 400 MHz)δ 2.05-2.14 (m, 1H), 2.16-2.28 (m, 1H), 2.50-2.60 (m, 2H), 2.63-2.75 (m, 2H), 3.89 (quint, J=8.4 Hz, 1H), 7.35 (d, J=4.4 Hz, 1H), 7.44 (dd, J=4.2, 8.2 Hz, 1H), 7.55 (d, J=5.2 Hz, 1H), 7.90 (d, J=8.4 Hz, 1H), 8.13 (dd, J=1.6, 8.4 Hz, 1H), 8.22 (d, J=8.2 Hz, 1H), 8.46 (s, 1H), 8.98 (dd, J=1.6, 4.2 Hz, 1H); MS (ES+): m/z 335.1/337.1 (100/44) [MH+].

reactant | POCl3 | 87 mmol, 8 mL, 13 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | cyclobutanecarboxylic acid [(3-chloropyrazin-2-yl)-quinolin-7-ylmethyl]-amide | 1.60 mmol, 566 mg | ClC=1C(=NC=CN1)C(C1=CC=C2C=CC=NC2=C1)NC(=O)C1CCC1 | C19H17ClN4O
product | 7-(8-Chloro-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-quinoline | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC=NC1=C2)C2CCC2 | C19H15ClN4
